US06867297B1
(3S,4S)-3-[(R)-1-(tert-Butyldimethylsilyloxy)ethyl]-4-[1,1-di(allyloxycarbonyl)ethyl]-2-azetidinone
A solution of diallyl 2-methylmalonate (396 mg, 2 mmol) in tetrahydrofuran (2 ml) was added dropwise to a suspension of sodium hydride (80 mg, 2 mmol) in tetrahydrofuran (5 ml) under an argon stream at 0° C., and the solution mixture was stirred for 5 min and admixed with cuprous bromide dimethylsulfide complex (411 mg, 2 mmol), followed by stirring for 30 min at the same temperature, addition of a solution of (3R,4S)-3-[(R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-phenylthio-2-azetidinone (338 mg, 1 mmole) in tetrahydrofuran (3 ml) and stirring for 1 hour. The reaction solution was admixed with aqueous saturated ammonium chloride solution and extracted with ethyl acetate. The ethyl acetate layer was dried over magnesium sulfate and concentrated under reduced pressure, and the residue was purified by column chromatography (10 g of silica gel; a 8/1 mixture of n-hexane/ethyl acetate) to give 392 mg (92%) of the subject compound in the form of colorless crystals.

reactant | diallyl 2-methylmalonate | 2 mmol, 396 mg | CC(C(=O)OCC=C)C(=O)OCC=C | C10H14O4
reactant | sodium hydride | 2 mmol, 80 mg | [H-].[Na+]
reactant | (3R,4S)-3-[(R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-phenylthio-2-azetidinone | 1 mmole, 338 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@@H]1C(N[C@H]1SC1=CC=CC=C1)=O | C17H27NO2SSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (3S,4S)-3-[(R)-1-(tert-Butyldimethylsilyloxy)ethyl]-4-[1,1-di(allyloxycarbonyl)ethyl]-2-azetidinone | 392 mg, 92% | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1C(C)(C(=O)OCC=C)C(=O)OCC=C)=O | C21H35NO6Si
